US05216167
(d) Ethyl 2-benzyloxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}-aminocarbonylmethyl]-benzoate
Prepared from ethyl 2-hydroxy-4[N-{1-(2-piperidinophenyl) -1-butyl}-aminocarbonylmethyl]-benzoate, using benzyl bromide.

reactant | ethyl 2-hydroxy-4[N-{1-(2-piperidinophenyl) -1-butyl}-aminocarbonylmethyl]-benzoate | OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1 | C26H34N2O4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | Ethyl 2-benzyloxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}-aminocarbonylmethyl]-benzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1 | C33H40N2O4
